US04167567
1-(2-amino-6-methyl-4-pyrimidinyl)-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine
A mixture of 4.00 g (0.010 mol) of 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine, 1.43 g (0.010 mol) of 2-amino-4-chloro-6-methylpyrimidine, 1.39 ml (0.01 mol) of triethylamine, and 125 ml of ethylene glycol is stirred at 100° C. for 5 hours. The reaction mixture is shaken with aqueous sodium carbonate and methylene chloride and the remaining solid is then collected by filtration. The product, 1-(2-amino-6-methyl-4-pyrimidinyl)-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine (4.06 g, 80%), is crystallized twice from methanol/methylene chloride; it has a melting point of 283°-286° C.

reactant | 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | 0.010 mol, 4.00 g | FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCNCC2)C=C1)(F)F | C21H19F3N4O
reactant | 2-amino-4-chloro-6-methylpyrimidine | 0.010 mol, 1.43 g | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | triethylamine | 0.01 mol, 1.39 ml | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethylene glycol | 125 ml | C(CO)O | C2H6O2
product | 1-(2-amino-6-methyl-4-pyrimidinyl)-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | NC1=NC(=CC(=N1)N1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O)C | C26H24F3N7O
